### PR TITLE
fix(NumberTheory/Carmichael): definition and import

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

**Comment by mo271** [comment]
making sure the definition and the docstring are aligned and fixing making the import more specific

**Review by danielchin — APPROVED** [review]
Looks a lot cleaner and I prefer this organization a lot more. LGTM

File: FormalConjectures/Wikipedia/AgohGiuga.lean [hunk 1]
```diff
@@ -111,86 +111,43 @@ theorem isWeakGiuga_iff_sum_primeFactors {n : ℕ} (hn : n.Composite) :
...
-  have ha₂_forall := ha₂
-  simp_all [IsCarmichael, Nat.Composite, a.squarefree_iff_prime_squarefree, Nat.FermatPsp, Nat.ProbablePrime]
-  rintro p hp ⟨N, rfl⟩
-  apply absurd (ha₂_forall (p * N + 1) ((1).le_add_left _))
-  have : Fact p.Prime := ⟨hp⟩
-  rw [mul_assoc] at ha₁
-  rw [mul_assoc, ← geom_sum_mul_of_one_le ((1).le_add_left (p * N)), p.coprime_mul_iff_left]
-  simpa using (mul_dvd_mul_iff_right fun _ ↦ by simp_all only [mul_zero, not_lt_zero']).not.mpr
-    ((ZMod.natCast_eq_zero_iff _ _).not.mp (by simp [le_of_lt ha₁.1]))
+theorem squarefree_of_isCarmichael {a : ℕ} (_ha₁ : a.Composite) (ha₂ : IsCarmichael a) :
```
Comment (YaelDillies) [inline FormalConjectures/Wikipedia/AgohGiuga.lean:114]: Surely you don't need the compositeness assumption?
